### PR TITLE
Exactness of six-term exact sequence of Ext at first spot

### PR DESCRIPTION
**Pull request by jarlg**
We prove `isexact_abses_sixterm_i`, which is exactness at the first spot of the six-term exact sequence of Ext groups associated to a short exact sequence. It's an incarnation of precomposition by a surjection is an injection, so we state and prove that first.

The statement was included without a proof (using `Abort.`) in a previous PR.

### CODE REVIEW

**Review by jdchristensen — APPROVED** [review]

File: theories/Algebra/AbGroups/AbHom.v [hunk 1]
```diff
@@ -70,3 +70,17 @@ Proof.
   intros A A' f B B' g phi; cbn.
   by apply equiv_path_grouphomomorphism.
 Defined.
+
+(** ** Properties of [ab_hom] *)
+
+(** Precomposition with a surjection is an embedding. *)
+(* This could be deduced from [isembedding_precompose_surjection_hset], but relating precomposition of homomorphisms with precomposition of the underlying maps is tedious, so we give a direct proof. *)
+Global Instance isembedding_precompose_surjection_ab `{Funext} {X Y Z : AbGroup}
```
[the remark this answers is not in the document]
Comment (jarlg) [reply theories/Algebra/AbGroups/AbHom.v]: Good idea. Done!

File: theories/Algebra/Groups/ShortExactSequence.v [hunk 2]
```diff
@@ -40,28 +40,23 @@ Local Existing Instance ishprop_phomotopy_hset.
...
+    exact ((equiv_grp_hfiber f b a)^-1 oE pequiv_cxfib).
   - intro isemb_f.
     exists (grp_iscomplex_trivial f).
     intros y; rapply contr_inhabited_hprop.
     exists tt; apply path_ishprop.
 Defined.
 
 (** A complex 0 -> A -> B is purely exact if and only if the kernel of the map A -> B is trivial. *)
-Corollary equiv_grp_isexact_kernel `{Univalence} {A B : Group} (f : A $-> B)
+Definition equiv_grp_isexact_kernel `{Univalence} {A B : Group} (f : A $-> B)
```
Comment (Alizter) [inline theories/Algebra/Groups/ShortExactSequence.v:58]: Do we still need Univalence here?

Comment (jarlg) [reply theories/Algebra/Groups/ShortExactSequence.v:58]: Yes, univalence is essential to that statement since it talks about paths between subgroups.

**Review by Alizter — APPROVED** [review]

**Comment by Alizter** [comment]
@jarlg LGTM, shall I merge?

**Comment by jarlg** [comment]
Great! Yes, go ahead.
